US07553965B2
b) 3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propylamine dihydrochloride
A solution of 2-[3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-isoindole1,3-dione (2 g, 5.78 mmol) and hydrazine hydrate (2.9 g, 57.8 mol) in ethanol (60 mL) was refluxed for 1 h. The reaction mixture was cooled down and treated with an additional amount of ethanol (30 mL) and concentrated HCl (7 mL). Then the reaction mixture was refluxed for 4 h and left overnight in a refrigerator. The precipitate was filtered off, and the solvent was evaporated. The residue was redissolved in water (15 ml) and made alkaline with 25% ammonia. Then, was extracted with CH2Cl2 (3×120 mL), the organic layer was dried over Na2SO4, and evaporated to dryness. The crude was dissolved in ethylacetate. A 2.8 M solution of hydrogen chloride in ethanol was then added. The precipitate formed was collected by filtration to give the desired product (0.80 g, 64% yield) as a beige solid.

reactant | 2-[3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-isoindole1,3-dione | 5.78 mmol, 2 g | C1CC2N(CCC3=CC=CC1=C23)CCCN2C(C3=CC=CC=C3C2=O)=O | C22H22N2O2
reactant | hydrazine hydrate | 57.8 mol, 2.9 g | O.NN
reactant | HCl | 7 mL | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propylamine dihydrochloride | 0.80 g, 64% yield | Cl.Cl.C1CC2N(CCC3=CC=CC1=C23)CCCN | InChI=1S/C14H20N2.2ClH/c15-8-2-9-16-10-7-12-4-1-3-11-5-6-13(16)14(11)12;;/h1,3-4,13H,2,5-10,15H2;2*1H
